US07566724B2
Under an argon atmosphere, a solution of n-butyllithium (2.59M, in hexane) (8.76 ml) was added dropwise to a solution of 1,4-diiodobenzene (7.49 g) in anhydrous THF (50 ml) at −78° C., and the resulting mixture was stirred at −78° C. for 30 minutes. Tetrahydro-4H-pyran-4-one (2.09 ml) was added dropwise thereto and the resulting mixture was stirred at −78° C. for 1.5 hours. After stirring the mixture for another 3 hours at room temperature, water was added, and the resulting mixture was extracted with ethyl acetate. Organic layer was washed once with water and once with saturated brine, and dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated. The residue was recrystallized from cyclohexane/ethyl acetate mixed solvent to obtain tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol (4.12 g).

reactant | n-butyllithium | 2.59M, 8.76 ml | C(CCC)[Li]
reactant | 1,4-diiodobenzene | 7.49 g | IC1=CC=C(C=C1)I | C6H4I2
reactant | Tetrahydro-4H-pyran-4-one | 2.09 ml | O1CCC(CC1)=O | C5H8O2
reactant | water | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | tetrahydro-4-(4-iodophenyl)-2H-pyran-4-ol | 4.12 g | IC1=CC=C(C=C1)C1(CCOCC1)O | C11H13IO2
